US06420567B1
To a solution of 3-nitro-2,4,6-trimethylbenzoic acid (6.7 g, 31.9 mmol) in anhydrous THF (100 mL) was added 1 m solution of BH3.THF in THF (63.8 mL, 63.8 mmol) dropwise at 0° C. The reaction mixture was stirred overnight at RT, cooled to 0° C. and quenched with water. The product was extracted into ethyl acetate, the extract was washed with water, dried over MgSO4 and concentrated to give 1-acetoxymethyl-3-nitro-2,4,6-trimethylbenzene as a light yellow oil (6.3 g, 89%).

reactant | 3-nitro-2,4,6-trimethylbenzoic acid | 31.9 mmol, 6.7 g | [N+](=O)([O-])C=1C(=C(C(=O)O)C(=CC1C)C)C | C10H11NO4
reactant | BH3.THF | B.C1CCOC1
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 63.8 mmol, 63.8 mL | C1CCOC1 | C4H8O
product | 1-acetoxymethyl-3-nitro-2,4,6-trimethylbenzene | 6.3 g, 89% | C(C)(=O)OCC1=C(C(=C(C=C1C)C)[N+](=O)[O-])C | C12H15NO4
